US05610162
Preparation of 17-(methylaminocarbonyloxymethyl)-4-methyl-5α-4-azaandrostan-3-one
Employing substantially the same procedure as described in Example 10, but substituting methyl isocyanate and 17-(hydroxymethyl)-4-methyl-5α-4-azaandrostan-3-one for the benzyl isocyanate and steroid alcohol, respectively, used therein, the title compound was obtained. MS M+ 2 calculated for C22H36N2O3, mw=376.54; observed m/e 378.

reactant | methyl isocyanate | CN=C=O | C2H3NO
reactant | 17-(hydroxymethyl)-4-methyl-5α-4-azaandrostan-3-one | OCC1[C@]2(C)[C@@H](CC1)[C@@H]1CC[C@H]3N(C(CC[C@]3(C)[C@H]1CC2)=O)C | C20H33NO2
reactant | benzyl isocyanate | C(C1=CC=CC=C1)N=C=O | C8H7NO
product | 17-(methylaminocarbonyloxymethyl)-4-methyl-5α-4-azaandrostan-3-one | CNC(=O)OCC1[C@]2(C)[C@@H](CC1)[C@@H]1CC[C@H]3N(C(CC[C@]3(C)[C@H]1CC2)=O)C | C22H36N2O3
